US08497275B2
Part A. Preparation of (3R,4R)-di-tert-butyl 4-(benzyloxycarbonylamino)pyrrolidine-1,3-dicarboxylate
To a solution of (3R,4R)-di-tert-butyl 4-aminopyrrolidine-1,3-dicarboxylate (Org. Biomol. Chem. 2004, 2, 2763-2776) (765 mg, 2.67 mmol) and Hunig's base (465 uL, 2.67 mmol) in N,N-dimethylformamide (5 mL) was added Cbz succinimide (665 mg, 2.67 mmol). The mixture was stirred for 3 hours and partitioned between EtOAc and water. The organic layer was washed repeatedly with brine, dried (Na2SO4) and concentrated to a clear oil (1.18 g, quantitative yield). MS (DCI/NH4) m/z=438 (M+NH4)+.

reactant | (3R,4R)-di-tert-butyl 4-aminopyrrolidine-1,3-dicarboxylate | 2.67 mmol, 765 mg | N[C@@H]1[C@@H](CN(C1)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C14H26N2O4
reactant | Hunig's base | 2.67 mmol, 465 uL | CCN(C(C)C)C(C)C | C8H19N
reactant | Cbz succinimide | 2.67 mmol, 665 mg | C(=O)(OCC1=CC=CC=C1)C1C(=O)NC(C1)=O | C12H11NO4
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | (3R,4R)-di-tert-butyl 4-(benzyloxycarbonylamino)pyrrolidine-1,3-dicarboxylate | 1.18 g, quantitative yield | C(C1=CC=CC=C1)OC(=O)N[C@@H]1[C@@H](CN(C1)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C22H32N2O6
